US04771135
Under a nitrogen atmosphere, 4-(R,S)-acetoxy-3-(S)-(phenoxyacetamido)azetidinone (1.32 g, 4.74 mmol) was dissolved in methylene chloride (9 ml). To this solution was added phenylselenol (1.5 ml, approximately 9.8 mmol), then boron trifluoride-etherate (10 drops). The resultant solution was stirred at room temperature for 20 minutes. The solution was diluted with ethyl acetate and extracted with saturated aqueous sodium bicarbonate solution (2×). The solution was dried over magnesium sulfate, filtered and concentrated in vacuo. The concentrate was absorbed onto silica gel (7 g) and then chromatographed over an additional amount of silica gel (15 g) using a gradient elution of toluene to ethyl acetate. The product-containing fractions gave 4-(R,S)-phenylselenyl)-3-(S)-(phenoxyacetamido)azetidinone.

reactant | 4-(R,S)-acetoxy-3-(S)-(phenoxyacetamido)azetidinone | 4.74 mmol, 1.32 g | C(C)(=O)OC1[C@@H](C(N1)=O)NC(COC1=CC=CC=C1)=O | C13H14N2O5
reactant | phenylselenol | approximately 9.8 mmol, 1.5 ml | C1=CC=C(C=C1)[Se] | C6H5Se
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
catalyst | boron trifluoride-etherate | 10 drops | B(F)(F)F.CCOCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(S)-(phenoxyacetamido)azetidinone | O(C1=CC=CC=C1)CC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
